US05766762
Preparation of chloroprene/2,3-dichlorobutadiene copolymer latex (4)
In the same manner as for the 2,3-dichlorobutadiene homopolymer latex as disclosed in Example 1 except that 400 g of chloroprene monomer and 1600 g of 2,3-dichlorobutadiene monomer were used, a latex having a solid content of 33.8 wt %, was obtained (total amount of surfactant: 1.24 wt %).

reactant | 2,3-dichlorobutadiene | ClC(=C)C(=C)Cl | C4H4Cl2
reactant | chloroprene | 400 g | C=CC(=C)Cl | C4H5Cl
reactant | 2,3-dichlorobutadiene | 1600 g | ClC(=C)C(=C)Cl | C4H4Cl2
product | chloroprene 2,3-dichlorobutadiene | C=CC(=C)Cl.ClC(=C)C(=C)Cl | InChI=1S/C4H4Cl2.C4H5Cl/c1-3(5)4(2)6;1-3-4(2)5/h1-2H2;3H,1-2H2
